* JFE150
*****************************************************************************
* (C) Copyright 2024 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: JFE150
* Date: 26SEP2024
* Model Version: Final 1.2
*
* Created with Shichman and Hodges JFET SPICE modeling
* Model Type: Generic (suitable for all analysis types)
* EVM Users Guide: SLPU009 - FEBRUARY 2022
* Datasheet: SLPS732B - JUNE 2021 - REVISED APRIL 2023
*
* PSpice Version - Version 23.1-2023-S003
* TINA Version - Version 9.3.200.277 SF-TI
*
*****************************************************************************
* Model Usage Notes:
*
* Revision 1.2 - 25SEP2024
*
*   (1) Fix PSpice-for-TI curation issue (E2E request)
*   (2) Rename the VCC as VCH and VEE as VCL pin-outs to match the datasheet.
*   (3) Removed extra ESD blocks for STRONG and WEAK corners.
*   (4) Model contents were NOT altered.
*
* Revision 1.1 - 28NOV2022
* 
*     This version includes 2 extra symbols within the same OLB file:
*     One for STRONG and other for WEAK corners.
*
*   Typical Corner --> JFE150
*   Weak Corner    --> JFE150_WEAK
*   Strong Corner  --> JFE150_STRONG
*     Overall, there will be 3 model-symbols within one release.
*
* Revision 1.0 - JUL2022
*
* The following parameters are modeled: 
*      Static, large and small signals, and noise parameters
*
*****************************************************************************
.SUBCKT JFE150_STRONG D G S VCH VCL
*****************************************************************************
.model DJFE150_STRONG D Is=1e-12 Cjo=0.1pF Rs=180k BV=22
.model NJFE150_STRONG NJF (BETA=46m BETATCE=.5 VTO=-1.5 VTOTC=2.5m LAMBDA=16.95m RD=20 RS=15.7 N=1 M=0.33 PB=0.705 IS=5.34f CGD=6.3p CGS=20.3p AF=1 KF=3.25e-18 FC=0.5)
*
J_J1         D G S NJFE150_STRONG
D_D1         G D   DJFE150_STRONG
X_U1         D VCH VCL ESD_OUT_JFE150
X_U2         G VCH VCL ESD_OUT_JFE150
X_U3         S VCH VCL ESD_OUT_JFE150
.ENDS JFE150_STRONG
*$
*
.SUBCKT ESD_OUT_JFE150 OUT VCH VCL
.MODEL ESD_SW VSWITCH(RON=50 ROFF=1E12 VON=700E-3 VOFF=100E-3)
S1 VCH OUT OUT VCH ESD_SW
S2 OUT VCL VCL OUT ESD_SW
.ENDS  ESD_OUT_JFE150
*$
*

